US07435844B2
Preparation of methyl (E)-2-[2-(4-cyclopropylmethoxy-3,5-dichlorophenoxymethyl)phenyl]-3-methoxyacrylate (Compound Nr.1)
A solution of 4-cyclopropylmethoxy-3,5-dichlorophenol (1.54 g; 6.6 mmoles) in DMF (5 ml) is added dropwise, at 0° C., to a suspension of sodium hydride (0.16 g; 6.6 mmoles) in N,N-dimethyl formamide (DMF; 5 ml). The mixture is kept under stirring at room temperature for 30 minutes and a solution of methyl (E)-2-(2bromomethylphenyl)-3-methoxyacrylate (1.9 g; 6.6 mmoles) in DMF (5 ml) is then added. The mixture is kept under stirring for 4 hours; the mixture is diluted with water (40 ml) and an extraction is effected with ethyl acetate (3×25 ml). The organic phases are joined, washed with water (2×20 ml), dried with sodium sulfate, filtered and concentrated at reduced pressure. The raw product obtained is purified by means of silica gel chromatography, eluting with hexane/ethyl acetate 9:1. 1.9 g of the desired product (thick oil) are obtained.

reactant | 4-cyclopropylmethoxy-3,5-dichlorophenol | 6.6 mmoles, 1.54 g | C1(CC1)COC1=C(C=C(C=C1Cl)O)Cl | C10H10Cl2O2
reactant | sodium hydride | 6.6 mmoles, 0.16 g | [H-].[Na+]
reactant | methyl (E)-2-(2bromomethylphenyl)-3-methoxyacrylate | 6.6 mmoles, 1.9 g | BrCC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C12H13BrO3
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 40 ml | O | H2O
product | methyl (E)-2-[2-(4-cyclopropylmethoxy-3,5-dichlorophenoxymethyl)phenyl]-3-methoxyacrylate | 1.9 g | C1(CC1)COC1=C(C=C(OCC2=C(C=CC=C2)/C(/C(=O)OC)=C\OC)C=C1Cl)Cl | C22H22Cl2O5
